US04055597
A mixture of (4S)-1,1-diethoxy-4-(2-tetrahydropyranyloxy)-2-nonyne (96.0 g., 0.31 mole), tetrahydrofuran (500 ml.), and 30% aqueous sulfuric acid (100 ml.) is stirred at room temperature for 17 hours. The solution is diluted with water and the oily product is extracted with ether. The ether extract is washed with sodium bicarbonate solution and water and dried over sodium sulfate. Evaporation of the ether leaves (4S)-4-hydroxy-2-nonynal as a colorless residual oil which is used in the following step without further purification.

reactant | (4S)-1,1-diethoxy-4-(2-tetrahydropyranyloxy)-2-nonyne | 0.31 mole, 96.0 g | C(C)OC(C#C[C@H](CCCCC)OC1OCCCC1)OCC | C18H32O4
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | (4S)-4-hydroxy-2-nonynal | O[C@H](C#CC=O)CCCCC | C9H14O2
